US08258149B2
To a suspension of berberine hydrochloride (500 mg, 1.3 mmol) in anhydrous diethyl ether (100 mL) at 0° C. was added 1-propynylmagnesium bromide solution (0.5 M in tetrahydrofuran, 26 mL, 13 mmol) dropwise. After stirring at 0° C. for 30 min, the reaction was quenched by adding saturated aqueous ammonium chloride solution (20 mL). The mixture was extracted with diethyl ether (2×50 mL), washed with brine, dried over anhydrous sodium sulfate and concentrated in vacuo. The residue was re-crystallized from diethyl ether to afford 9,10-dimethoxy-8-prop-1-ynyl-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline (190 mg, 37%). LC/MS m/e calcd for C23H21NO4 (M+H)+: 376.43, observed: 376.2; 1H NMR (400 MHz, DMSO-d6) δ ppm 1.68 (d, J=2.02 Hz, 3 H) 2.76-2.86 (m, 2 H) 3.21-3.30 (m, 2 H) 3.80 (d, J=3.03 Hz, 6 H) 5.39-5.43 (m, 1 H) 6.01 (d, J=5.31 Hz, 2 H) 6.15 (s, 1 H) 6.76 (d, 2 H) 6.90 (d, J=8.34 Hz, 1 H) 7.32 (s, 1 H).

reactant | berberine hydrochloride | 1.3 mmol, 500 mg | COC1=C(C2=C[N+]3=C(C=C2C=C1)C4=CC5=C(C=C4CC3)OCO5)OC.[Cl-]
reactant | 1-propynylmagnesium bromide | 13 mmol, 0.5 M, 26 mL | C(#CC)[Mg]Br
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 9,10-dimethoxy-8-prop-1-ynyl-5,8-dihydro-6H-[1,3]dioxolo[4,5-g]isoquino[3,2-a]isoquinoline | 190 mg, 37% | COC1=C(C=CC=2C=C3N(CCC4=CC5=C(C=C34)OCO5)C(C12)C#CC)OC | C23H21NO4
